US06593472B2
c) 4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-methyl-carbamoyl]-4-o-tolyl-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 6.28 g (15.3 mmol) 4-(5-methylcarbamoyl-4-o-tolyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester in 250 ml tetrahydrofuran 20 ml of a 1 M solution (20 mmol) of potassium hexamethyldisilazide in tetrahydrofuran were added at 0° C. After 30 min, 2.81 ml (15.3 mmol) 3,5-bis(trifluoromethyl)benzyl bromide were added dropwise. The reaction mixture was allowed to warm to room temperature over night. Addition of water and 1 M aqueous sodium hydroxide solution was followed by extraction with three portions of ethyl acetate. The combined organic extracts were dried with sodium sulfate and concentrated. Flash column chromatography gave 6.89 g (70.8%) of the parent compound as a white solid.

reactant | 4-(5-methylcarbamoyl-4-o-tolyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 15.3 mmol, 6.28 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C(=C1)C1=C(C=CC=C1)C)C(NC)=O | C23H30N4O3
reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 15.3 mmol, 2.81 ml | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-methyl-carbamoyl]-4-o-tolyl-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | 6.89 g, 70.8% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C(=C1)C1=C(C=CC=C1)C)C(N(C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C32H34F6N4O3
